US04535075
Synthesis of di-n-propyl 4,5-bis (N,N-dimethylcarbamoyloxy)-1,3-dithiolane-2-ylidenemalonate (Compound 64 in Table 1)
1.0 g (3.1 m mole) of di-n-propyl 4,5-dihydroxy-1,3-dithiolane-2-ylidenemalonate was dissolved in 5 ml of pyridine, 1.33 g of N,N-dimethylcarbamoyl chloride was dropped into the solution, which was stirred for 18 hours at room temperature.

reactant | di-n-propyl 4,5-dihydroxy-1,3-dithiolane-2-ylidenemalonate | 1.0 g | OC1SC(SC1O)=C(C(=O)OCCC)C(=O)OCCC | C12H18O6S2
reactant | N,N-dimethylcarbamoyl chloride | 1.33 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | di-n-propyl 4,5-bis (N,N-dimethylcarbamoyloxy)-1,3-dithiolane-2-ylidenemalonate | CN(C(=O)OC1SC(SC1OC(N(C)C)=O)=C(C(=O)OCCC)C(=O)OCCC)C | C18H28N2O8S2
